US05506351
N2-Isobutyryl-2'-O-propylguanosine
2'-O-Propylguanosine (3.6 gm) in pyridine (50 ml) was cooled in an ice bath and trimethylsilyl chloride (8.4 ml, 6 eq.) was added. The reaction mixture was stirred for 30 min and isobutyryl chloride (5.8 ml, 5 eq.) was added. The solution was stirred for 4 hours during which it was allowed to warm to room temperature. The solution was cooled, H2O added (10 ml) and the solution was stirred for an additional 30 mins. Concentrated NH4OH (10 ml) was added and the solution evaporated in vacuo. The residue was purified by silica gel chromatography using 10% MeOH/CH2CL2 to elute the product. Product-containing fractions were evaporated to yield 2.5 g of product as a foam. An analytical sample was re-chromatographed on silica and eluted with CH2Cl2 →6% MeOH/CH2Cl2. 1H NMR (DMSO-d6) δ 0.75 (t 3, CH3) 1.13 [d, 6, CH(CH3)2 ], 1.4 (m, 2, CH2), 2.75 [m, 1, CH(CH3)2 ], 3.52 (m, 6, OCH2), 3.36 and 3.6 (ABX, 2, H-5'), 3.95 (m, 1), 4.26 (m, 1), 4.33 (m, 1), 5.07 (t, 1, 5'-OH), 5.18 (d, 1, 3'-OH), 5.9 (d, 1, H-1'), 8.25 (s, 1, H-8), 11.65 (br s, 1, NH) and 12.1 (br s, 1, NH). Anal. Calcd. for C17H25N5O6.1/2H2O: C, 50.49; H, 6.48; N, 17.32. Found: C, 50.81; H, 6.62; N, 17.04.

reactant | 2'-O-Propylguanosine | 3.6 gm | C(CC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(=O)NC(N)=NC12 | C13H19N5O5
reactant | trimethylsilyl chloride | 8.4 ml, 6 eq. | C[Si](C)(C)Cl | C3H9ClSi
reactant | isobutyryl chloride | 5.8 ml, 5 eq. | C(C(C)C)(=O)Cl | C4H7ClO
reactant | NH4OH | 10 ml | [NH4+].[OH-]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | H2O | O | H2O
product | N2-Isobutyryl-2'-O-propylguanosine | 2.5 g | C(C(C)C)(=O)NC=1NC(C=2N=CN([C@H]3[C@H](OCCC)[C@H](O)[C@@H](CO)O3)C2N1)=O | C17H25N5O6
